plaintext
* SPICE Netlist for the given schematic

VCC 3 0 DC 15V             * VCC is the supply voltage
VI 2 0 DC 5V               * Input voltage source
RC 3 4 5k                  * Collector resistor
QNPN 3 2 4 NPN             * NPN Transistor
                          * (Collector, Base, Emitter)

.end